US04837217
To a solution of 2.2 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 1.9 g of 5-chloromethyl-2-propyloxypyridine in 20 ml of N,N-dimethylformamide was added under stirring 1.5 g of potassium carbonate at room temperature. After additional stirring for 8 hours at room temperature, the mixture was poured into 50 ml of water and then extracted twice with 50 ml of benzene. The organic layer was washed with water, dried over anhydrous sodium sulfate and then freed of solvent by distillation under reduced pressure to obtain 3.7 g of a crude product. The crude product was added with isopropyl ether and recrystallized therefrom to give 3.0 g of 2-t-butyl-4-chloro-5{-(6-propyloxy-3-pyridyl)-methylthio}-3(2H)-pyridazinone, m.p. 92.0°~93.5° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 5-chloromethyl-2-propyloxypyridine | 1.9 g | ClCC=1C=CC(=NC1)OCCC | C9H12ClNO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-t-butyl-4-chloro-5{-(6-propyloxy-3-pyridyl)-methylthio}-3(2H)-pyridazinone | 3.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC=1C=NC(=CC1)OCCC | C17H22ClN3O2S
